Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram (___)

 
History of Present Illness:
___ with h/o HTN who is not compliant with medications presents
to the ED from OSH with c/o chest pain. He states that he was
walking up stairs at work yesterday when he developed a crushing
chest pain radiating under both armpits and down both arms. He
denied any associated shortness of breath, nausea, or 
diaphoresis
at that time. The pain resolved but came back later in the day
and persisted. He was seen at ___ where he had a negative
troponin but dynamic T-wave changes. He was given 3x doses of
sublingual nitroglycerin, full dose ASA, and heparin. He was
started on a nitroglycerin drip and has been persistently
hypertensive with SBP 150s. He was transferred to ___ as an
NSTEMI with plans to go the cath lab. He was brought to the ED
where he continued to have crushing chest pain. The nitro gtt
brought the chest pain down to ___. He underwent a coronary
angiogram, which showed clean coronaries.

In the ED...  
- Initial vitals: BP 134/118, HR 78, RR 17, 98% RA

- EKG: New TWIs in V4-V6
 
- Labs/studies notable for:  
Trop: 0.04
CBC, Chem-7 unremarkable

- Patient was given: 
Heparin gtt
Nitro gtt
  
- Vitals on transfer: BP 113/68, HR 72, RR 16, 93% RA
 
Upon admission to the cardiology service, patient endorsed the
above history. He states that the pain was not associated with
eating, nausea, vomiting, or heartburn. He denies any recent
trauma to the area. He has never had this pain before. He denies
claudication symptoms and denies numbness or tingling in his
fingers and toes. 
 
REVIEW OF SYSTEMS: 10 point ROS was obtained and was otherwise
negative except as mentioned in the HPI. 

 
Past Medical History:
1. CARDIAC RISK FACTORS   
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
Migraine
Pituitary adenoma
Tobacco dependence

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VITALS: ___ 1113 Temp: 97.5 PO BP: 119/75 L Lying HR: 70 
RR:
16 O2 sat: 95% O2 delivery: Ra   
GENERAL: Appears younger than stated age. Laying in bed. NAD.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated at 45 degrees. 
CARDIAC: RRR, S1, S2. No murmurs/rubs/gallops. Chest pain
non-reproducible upon palpation.
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi.  
ABDOMEN: +BS. Non-distended, soft, non-tender to palpation.  
EXTREMITIES: Warm, no edema.  
PULSES: Distal pulses palpable and symmetric.
 
DISCHARGE PHYSICAL EXAM
========================
VITALS: ___ 1551 Temp: 98.2 PO BP: 147/93 R Sitting HR: 99 
RR: 16 O2 sat: 97% O2 delivery: RA 
GENERAL: Appears younger than stated age. Laying in bed. NAD.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated at 45 degrees. 
CARDIAC: RRR, S1, S2. No murmurs/rubs/gallops. Chest pain
non-reproducible upon palpation.
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi.  
ABDOMEN: +BS. Non-distended, soft, non-tender to palpation.  
EXTREMITIES: Warm, no edema.  
PULSES: Distal pulses palpable and symmetric.
 

 
Pertinent Results:
ADMISSION LABS
===============
___ 06:26AM BLOOD WBC-7.3 RBC-5.53 Hgb-15.1 Hct-47.8 MCV-86 
MCH-27.3 MCHC-31.6* RDW-13.7 RDWSD-43.2 Plt ___
___ 06:26AM BLOOD Neuts-72.8* ___ Monos-4.0* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.32 AbsLymp-1.62 
AbsMono-0.29 AbsEos-0.02* AbsBaso-0.02
___ 06:26AM BLOOD Glucose-123* UreaN-15 Creat-1.0 Na-142 
K-4.3 Cl-105 HCO3-21* AnGap-16
___ 06:26AM BLOOD cTropnT-0.04*
___ 01:16PM BLOOD CK-MB-29* cTropnT-0.33*
___ 09:30PM BLOOD CK-MB-35* cTropnT-1.01*

DISCHARGE LABS
===============
___ 05:55AM BLOOD WBC-8.1 RBC-5.31 Hgb-14.2 Hct-44.9 MCV-85 
MCH-26.7 MCHC-31.6* RDW-14.0 RDWSD-43.0 Plt ___
___ 05:55AM BLOOD Glucose-99 UreaN-8 Creat-0.9 Na-143 K-4.2 
Cl-106 HCO3-24 AnGap-13
___ 03:02AM BLOOD CK-MB-27* cTropnT-1.22*
___ 09:32AM BLOOD CK-MB-19* cTropnT-0.82*
___ 05:55AM BLOOD Calcium-9.7 Phos-2.5* Mg-2.0

IMAGING
========
TTE (___)
--------------
CONCLUSION: The left atrium is mildly dilated. The estimated 
right atrial pressure is ___ mmHg. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
mild regional left ventricular systolic dysfunction with 
hypokinesis of the basal to mid inferolateral wall (see 
schematic) and preserved/normal contractility of the remaining 
segments. This was not picked up on speckle tracking, but 
visually is hypokinetic relative to other segments. Quantitative 
3D volumetric left ventricular ejection fraction is 51 %. Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus is mildly dilated with mildly dilated ascending aorta. The 
aortic arch is mildly dilated with a normal descending aorta 
diameter. The aortic valve leaflets (3) appear structurally 
normal. There is no aortic valve stenosis. There is an eccentric 
jet of mild [1+] aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve prolapse. There 
is mild [1+] mitral regurgitation. The pulmonic valve leaflets 
are normal. The tricuspid valve leaflets are mildly thickened. 
There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is borderline elevated. There 
is no pericardial effusion.
IMPRESSION: Normal left ventricular cavity size with mild 
regional systolic dysfunction (see above). Mild eccentric aortic 
regurgitation. Mild mitral regurgitation. No prior TTE available 
for comparison.

MICROBIOLOGY
=============
None
 
Brief Hospital Course:
SUMMARY
========
___ yo M with cardiac risk factors (HTN, HLD, current smoker) who 
presented with typical chest pain, troponin leak, and ischemic 
EKG changes, found to only have 60% stenosis of distal OM1 which 
was not intervened upon.

ACUTE ISSUES
=============
#MINOCA
Patient presented with typical chest pain, elevated troponin to 
peak of 1.22, new TWI's on EKG. He was taken straight to 
coronary angiogram on ___, which showed only 60% stenosis of 
distal OM1. Patient was started on nitro gtt which decreased his 
chest pain to ___. Etiology most likely MINOCA with some 
component of coronary vasospasm. Patient underwent TTE which 
showed EF 51%, mild regional left ventricular systolic 
dysfunction with hypokinesis of the basal to mid inferolateral 
wall and preserved/normal contractility of the remaining 
segments. Patient was started on aspirin, Rosuvastatin 40 mg, 
diltiazem, pantoprazole, and clopidogrel; he was discharged on 
these medications.

#Hypertension
- Started on diltiazem, and his home amlodipine was discontinued 
given that patient was not taking it for 2 months prior to 
arrival.

#Tobacco use
- Patient declined nicotine patch.

CHRONIC ISSUES
=============== 
#Hyperlipidemia
- Started on Rosuvastatin 40 mg and discontinued his home 
simvastatin (patient was not taking it anyway).

#GERD
- Started on pantoprazole 40 mg and discontinued his home 
omeprazole (patient was not taking it anyway).

CORE MEASURES: 
============== 
# CODE: Full (confirmed) 
# CONTACT: None given

TRANSITIONAL ISSUES
====================
[ ] MINOCA - Patient will likely get cardiac MRI as outpatient.
[ ] Tobacco use - Please continue to encourage smoking 
cessation; patient not taking Chantix at home.
[ ] Medication non-compliance - Please continue to reiterate 
with patient how important it is for him to take his 
medications.

MEDICATIONS:
-------------
NEW:
[]Aspirin 81 mg QD
[]Plavix 75 mg QD
[]Rosuvastatin 40 mg QD
[]Diltiazem 240 mg ER QD
[]Pantoprazole 40 mg QD

DISCONTINUED (patient not taking, and we are not restarting):
[]Amlodipine
[]Simvastatin
[]Omeprazole
[]Varenicline
[]Multivitamin
[]Tolnaftate

DISCHARGE WEIGHT: 106.3 kg (234.35 lb) 
DISCHARGE CR: 0.9

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Clopidogrel 75 mg PO DAILY  
3.  Diltiazem Extended-Release 240 mg PO DAILY 
RX *diltiazem HCl 240 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0 
4.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
5.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Myocardial infarction with non-obstructive coronary arteries

SECONDARY DIAGNOSES
====================
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted because you were having chest pain and found 
to be having a heart attack. 

WHAT WAS DONE WHILE I WAS HERE?
- You underwent a procedure called a coronary angiogram. This 
looked at your heart vessels and showed that there was no major 
blockage.
- You were started on several medications to reduce your heart 
disease risk and to reduce the risk of you having another heart 
attack.

WHAT DO I NEED TO DO ONCE I LEAVE?
- Please take all of your medications as prescribed.
- Please keep your appointments.
- If you have another episode of chest pain, please call our 
Heartline at ___ to speak to one of our cardiac nurses 
or cardiologists.

Be well,

Your ___ Care Team
 
Followup Instructions:
___